US06124421
In synthetic route `A3`, 1-methoxynaphthalene and a solution of tris(trifluoroacetato)thallium[III] in acetonitrile are charged to a reaction vessel. Boron trifluoride etherate is added and the reaction mixture stirred at room temperature for between approximately 1-2 h to provide the intermediate 4,4'-dimethoxy-1,1'-binaphthyl. The 4,4'-dimethoxy-1,1'-binaphthyl intermediate is subsequently demethylated using boron tribromide (BBr3) which is added slowly to a dichloromethane solution of the intermediate to maintain the temperature at about -78° C. The reaction mixture is then warmed to room temperature and stirred for approximately 16 h in an inert atmosphere, then poured into water. The white crystals that form are 4,4'-Dihydroxy-1,1'-binaphthyl.

reactant | 1-methoxynaphthalene | COC1=CC=CC2=CC=CC=C12 | C11H10O
reactant | Boron trifluoride etherate | B(F)(F)F.CCOCC
solvent | acetonitrile | C(C)#N | C2H3N
product | 4,4'-dimethoxy-1,1'-binaphthyl | COC1=CC=C(C2=CC=CC=C12)C1=CC=C(C2=CC=CC=C12)OC | C22H18O2
